US07456293B2
Step B: Preparation of ethyl 2-ethoxy-3-(4-{2-[2-(pentafluoroethyl)-1H-benzimidazol-1 yl]ethoxy}phenyl)propanoate
This compound was prepared from ethyl 3-[4-(2-bromoethoxy)phenyl]-2-ethoxypropanoate (371 mg, 1 mmol), 2-(pentafluoroethyl)-1H-benzimidazole (259 mg, 1.1 mmol), K2CO3 (552 mg, 4 mmol) and DMF (5 ml) using the procedure described in Step B of Example 1. Yield 420 mg (84%).

reactant | ethyl 3-[4-(2-bromoethoxy)phenyl]-2-ethoxypropanoate | 1 mmol, 371 mg | BrCCOC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C15H21BrO4
reactant | 2-(pentafluoroethyl)-1H-benzimidazole | 1.1 mmol, 259 mg | FC(C(F)(F)F)(C1=NC2=C(N1)C=CC=C2)F | C9H5F5N2
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 2-ethoxy-3-(4-{2-[2-(pentafluoroethyl)-1H-benzimidazol-1 yl]ethoxy}phenyl)propanoate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCN1C(=NC2=C1C=CC=C2)C(C(F)(F)F)(F)F | C24H25F5N2O4
